US09035070B2
Ueda et al. (Synthesis of pyrazolone derivatives. XLII. Synthesis and analgesic activity of 2-methyl-1-phenyl-6,7-dihydro-1H,5H-pyrazolo[5,1-b][1,3]oxazin-8-ium bromide. Yakugaku Zasshi (1982), 102(8), 743-7) proposes in Chart I of page 744 and in the last two paragraphs on page 745, the reaction of an ethyl 2-(2-methyl-1,3-dioxolan-2-yl)acetate with phenylhydrazine in the presence of sodium methoxide as a base and benzene as a solvent, thereby obtaining 2-(2-methyl-1,3-dioxolan-2-yl)-N′-phenylacetohydrazide, which is further cyclised after treatment with hydrochloric acid 10% and heating on a water bath at 90° C., to obtain 3-hydroxy-5-methyl-1-phenylpyrazole. However, this method presents the disadvantage that both sodium methoxide and benzene are unsuitable for industrial upscaling, in particular, sodium methoxide is a dangerous and highly toxic reagent and benzene is carcinogenic and therefore unsuitable for use in large quantities. Moreover, the reaction devised by Ueda et al. presents a non-optimal yield for 2-(2-methyl-1,3-dioxolan-2-yl)-N′-phenylacetohydrazide (30%). Most importantly, when the inventors tried to reproduce said reaction with similar conditions and a naphthylhydrazine was used instead of the phenylhydrazine (see Example 26 below), they were unsuccessful in preparing the desired final intermediate in optimal isomeric purity. Adversely, an isomeric mixture (80:20) of 5-methyl-1-(naphthalen-2-yl)-1H-pyrazol-3-ol (desired isomer) and 3-methyl-1-(naphthalen-2-yl)-1H-pyrazol-5-ol (non-desired isomer) was obtained. This process does not avoid the distal nitrogen of the hydrazine from reacting with the ketone carbonyl of the ketoacetate, thereby generating by-products that make this route not interesting for industrial production.

reactant | pyrazolone | N1=NC(C=C1)=O | C3H2N2O
reactant | 2-methyl-1-phenyl-6,7-dihydro-1H,5H-pyrazolo[5,1-b][1,3]oxazin-8-ium bromide | [Br-].CC=1N([N+]2=C(OCCC2)C1)C1=CC=CC=C1
reactant | ethyl 2-(2-methyl-1,3-dioxolan-2-yl)acetate | CC1(OCCO1)CC(=O)OCC | C8H14O4
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium methoxide | C[O-].[Na+]
reactant | 2-(2-methyl-1,3-dioxolan-2-yl)-N′-phenylacetohydrazide | CC1(OCCO1)CC(=O)NNC1=CC=CC=C1 | C12H16N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-hydroxy-5-methyl-1-phenylpyrazole | OC1=NN(C(=C1)C)C1=CC=CC=C1 | C10H10N2O
